Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Prilosec
 
Attending: ___.
 
Chief Complaint:
Fever of unknown origin
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old Male brought in for severe fevers of unknown origin. 
Patient is a previously healthy male who presents with 2 weeks 
of fevers and myalgias. The patient apparently went to ___ a 
week prior to admission, where he presented with a fever to 106. 
He was started on doxycycline for presumed lyme disease, got IV 
fluids and ultimately was discharged. The patient reports one 
week of anorexia, nausea, diarrhea, along with 3 days of 
non-productive cough and some mild abdominal pain. The patient 
came to the ___ today and while walking from the garage 
was apparently too weak to continue so EMS transported him to 
the ED. 

Looking at his ___ ED notes, on ___ he was described as having 
a maculopapular rash. On that exam his knees are tender on 
lateral palpation bilaterally

Initial vitals in the ___ ED were 103.9, 115, 122/86, 16, 99%. 
He was given 2L of IV fluids, ondansetron, Tylenol and 
ketorolac. With improvement in his fever curve. He underwent a 
chest x-ray and CT abd/pelvis which were non-revealing for 
cause.
 
Past Medical History:
No Past Medical History
 
Social History:
___
Family History:
Mother: healthy
Father: healthy
Grandmother: ___ CA
 
Physical Exam:
ADMISSION PHYSICAL EXAM:

VSS: 101.1, 101/66, 92, 18, 99%
 GEN: NAD
 Pain: ___
 HEENT: anicteric, non-injected, PERRLA EOMI, MMM, - OP Lesions
 PUL: CTA B/L
 COR: RRR, S1/S2, I/VI HSM, wide split S2
 ABD: NT/ND, +BS, - CVAT
 EXT: - CCE
 NEURO: CAOx3, Motor: ___ ___ Spread Flex/Ext

DISCHARGE PHYSICAL EXAM

Gen: NAD
HEENT: no icterus, PERRL, OP clear without erythema or lesions
Neck: mild tender anterior cervical lymphagenopathy, no 
posterior cervical adenopathy
Chest: CTAB, normal WOB
Cards: RR, no m/r/g
Abd: S, ND, NT, BS+
MSK: right elbow with limited aROM due to pain and is tender to 
palpation between the olecranon and the medial epicondyle 
without palpable effusion, without erythema, without warmth, 
without induration or other overlying skin changes; other joints 
with normal aROM/pROM
Neuro: AAOx4, clear speech, conversant, tongue is midline, face 
symmetric, has some lateral strabismus of right eye, otherwise 
EOMI
Skin: no rashes appreciated on face, chest, abdomen, back, and 
legs
 
Pertinent Results:
=================================

PERTINENT DATA
WBC 8->6->8->10->13->13
Hgb 11.7-12.9, MCV ___, RDW ___
Plts 200s-300s
INR 1.6->1.4->1.3->1.2

Fibrinogen 300s-400s

BMPs wnl

ALT 28->134->236->166->110
AST 80->241->275->112->60
Alk Phos 80->117->138->134->121
TB 0.4-0.6

___ ___

LDH 1015->1151

Trig 141
TSH 1.8

Parasite smear + for anaplasma in neutrophils
Anaplasma and babesia PCR negative
Hep B nonimmune, hep A neg, Hep C serology neg, HIV neg
CMV serology neg
GC/CT neg from throat and urine
Lyme neg
___, ANCA, ___, RF neg
RPR-prozone neg
Strongyloides Ab neg
Quant gold neg
Parvo 
Stool culture neg
EBV IgG + IgM -

PENDING STUDIES: O&P pending, soluble IL2 receptor, anaplasma 
serology, CMV and HSV PCR, hep C viral load

___ records:
Erlichia, Babesia, and Lyme negative

CT A/P ___. No focal abnormalities identified within the abdomen or 
pelvis
to correlate 
with patient's symptoms. 
2. Diverticulosis without diverticulitis. 
  
CT chest ___
Mildly prominent bilateral axillary lymph nodes, likely 
reactive;
otherwise 
unremarkable study of the chest. 

RUQUS ___
IMPRESSION:  
No acute sonographic findings.  Stable left simple renal cyst. 
Echogenic liver consistent with steatosis. Other forms of liver
disease and more advanced liver disease including 
steatohepatitis
or significant hepatic fibrosis/cirrhosis cannot be excluded on
this study. 

=================================
 
Brief Hospital Course:
___ year old previously healthy man who initially presented to 
___ on ___ with fevers, arthralgias, and maculopapular rash, 
started empirically on doxycycline (although 'tick panel' sent 
at ___ ultimately returned negative), who presented to ___ on 
___ with persistent fevers to 102-103 range despite 9 days of 
doxycycline, anorexia, and weight loss, found to have ferritin 
of 37,000 and +anaplasma on blood smear. He defervesced early in 
his admission and once anaplasma was discovered doxy was 
restarted on ___. He had initially presented with mild isolated 
AST elevation (also seen at ___) but subsequently developed 
transaminase to 200s and alk phos elevation that peaked ___ and 
then improved. Also developed worsening leukocytosis that peaked 
at 13.3 on ___ and was 13.0 on ___.

Ultimately it remained uncertain whether or not anaplasma 
infection was the only process causing his constellation of 
findings. Rash is not typically seen in anaplasma, ferritin is 
not typically so high, and his very slow response to doxycycline 
as well as late developing findings such as LFT surge, 
leukocytosis, and persistent myalgias and borderline fever would 
not be expected ~2 weeks into therapy. It is possible that he 
experienced a secondary inflammatory process due to the 
anaplasma or that the anaplasma was a red herring. Stills and 
HLH were considered, but neither felt to be likely. It is 
conceivable that he had HLH-like inflammation but not severe 
enough to meet criteria for HLH. Soluble IL-2 receptor and 
several other studies pending at discharge. One other 
consideration would ___ Syndrome, which usually presents 
with fevers, arthralgias (particularly with ankle involvement in 
men), hilar adenopathy, and erythema nodosum. He did not present 
with all of those findings, but did present with some of them 
(fever, polyarthralgia involving ankles, and ?EN--reported 
maculopapular rash on admission, but not reported on any exam 
here at ___, so it would be something to consider if his 
symptoms continue to smolder despite resolution of anaplasmosis.

He will follow-up next week in infectious disease and also has 
an establish care appointment in primary care at ___. He will 
likely follow-up in ___ clinic as well. He will take 
doxycycline through ___ to complete a total of 14 days of 
therapy per the ID team recommendations.  He has close follow-up 
scheduled in ___ clinic on ___. 

Of note, anaplasma PCR was negative, but the pathologist who 
read the smear felt that the findings on smear were sufficiently 
specific to make the diagnosis. Anaplasma PCR is only a 
moderately sensitive test, particularly given the patient had 
already been on appropriate therapy for over a week by the time 
the PCR specimen was obtained. 

Problem list:
#Anaplasmosis
#Fevers - improving
#Nausea - improved
#Weight loss
#Transaminitis - improving
#Myalgias - improving
#Polyarthralgias (migratory) - improving (b/l ankle pain has 
resolved), though currently with right elbow pain
#Leukocytosis - stable
#Suspected hepatic steatosis
#Coagulopathy (INR elevation) - improving
#Severe ferritin elevation - improving

===================================
TRANSITIONAL ISSUES:
- ID appointment on ___ at 10:00 AM
- New PCP appointment on ___ at 2:40 ___
- Pending studies at discharge: stool O&P pending; serum soluble 
IL2 receptor, anaplasma serology, CMV and HSV PCRs, hep C viral 
load, 
- recheck CBC, BMP, LFT, ferritin as outpatient at either ___ 
or ___ f/u appointment
- restarted doxycycline ___ (had been treated ___, plan
for treatment through ___ for total 14 days
- outpatient RUQUS after recovery from illness given ?steatosis
- will need outpatient vaccination for hepatitis B 
===================================

Time in care:
[x] Greater than 30 minutes in discharge-related activities 
today.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Ibuprofen 800 mg PO Q8H:PRN Pain - Moderate 
2. Doxycycline Hyclate 100 mg PO Q12H 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q8H:PRN Pain  
2.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*3 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Anaplasmosis
# Elevated transaminases
# Leukocytosis
# Extreme elevation of ferritin
# Fevers
# Myalgias
# Arthralgias (migratory polyarthralgia)
# Coagulopathy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital with fevers, chills, nausea, 
and weight loss. We sent many lab tests in an attempt to 
diagnose the cause of your symptoms. We found evidence of an 
infection called anaplasmosis, a tick-borne illness. At this 
time we suspect this may be the cause of all of your symptoms. 
However, anaplasmosis usually improves more quickly, and so we 
are still considering the possibility that there could be 
another process occurring, such as an inflammatory process 
brought on by the anaplasma but which has continued despite 
effective treatment. At this point most of your labs and 
symptoms are improving, so it is safe to return home and 
follow-up in clinic this week as noted below. Should you have 
worsening symptoms or fever persistently > 101, please call Dr. 
___ office to discuss or return to the ___ ED to be 
evaluated.

Please plan to take the antibiotics (doxycycline) through ___.

Please plan to see Dr. ___ in ___ ___ Disease 
clinic at your scheduled appointment on ___ at 10:00 AM.

Please plan to establish care with your new primary care 
physician, ___, at your scheduled appointment on 
___ @ 2:40 ___.
 
Followup Instructions:
___